US08629168B2
[4-(4-Amino-phenyl)-oxazolo[5,4-c]pyridin-2-yl]-(3,4,5-trimethoxy-phenyl)-amine
0.082 g (0.209 mmol) (4-bromo-oxazolo[5,4-c]pyridin-2-yl)-(3,4,5-trimethoxy-phenyl)-amine and 0.04 g (0.22 mmol) (4-aminophenyl) boronic acid are dissolved in 3 ml 1,2-dimethoxy-ethane, a solution of 0.044 g (0.425 mmol) Na2CO3 (in 0.6 ml water) is added and a stream of argon is bubbled through the mixture in order to exclude oxygen from the reaction mixture. Tetrakis (triphenylphosphine) palladium (0.0259 g, 0.021 mmol) is added and the reaction mixture is stirred at 100° C. or 83 h. After that the reaction mixture is poured on water and extracted 3× with EtOAc. The combined organic layers are washed with water and saturated NaCl solution, dried over MgSO4, filtered and the filtrate is concentrated in vacuo. The residue is purified by chromatography (silicagel, hexane=>EtOAc) and recrystallisation from dichloromethane/diethyl ether to afford the title compound. Rt=1.70 min (Waters Symmetry C8, 2.1×50 mm, detection 210-250 nM, 5% to 100% CH3CN in H2O in 2 min+0.05% TFA, flow rate 1.0 ml/min); MS: 393 (M+1)+; m.p. 148-151° C.

reactant | (4-bromo-oxazolo[5,4-c]pyridin-2-yl)-(3,4,5-trimethoxy-phenyl)-amine | 0.209 mmol, 0.082 g | BrC1=NC=CC2=C1OC(=N2)NC2=CC(=C(C(=C2)OC)OC)OC | C15H14BrN3O4
reactant | (4-aminophenyl) boronic acid | 0.22 mmol, 0.04 g | NC1=CC=C(C=C1)B(O)O | C6H8BNO2
reactant | Na2CO3 | 0.425 mmol, 0.6 ml, 0.044 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,2-dimethoxy-ethane | 3 ml | COCCOC | C4H10O2
catalyst | Tetrakis (triphenylphosphine) palladium | 0.021 mmol, 0.0259 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | [4-(4-Amino-phenyl)-oxazolo[5,4-c]pyridin-2-yl]-(3,4,5-trimethoxy-phenyl)-amine | NC1=CC=C(C=C1)C1=NC=CC2=C1OC(=N2)NC2=CC(=C(C(=C2)OC)OC)OC | C21H20N4O4
